US07211685B2
1-(2-Methoxyphenyl)propanol
o-Anisaldehyde (2.72 g) was dissolved in tetrahydrofuran (50 ml), and 0.93M magnesium ethylbromide—tetrahydrofuran solution (31.3 ml) was added dropwise under ice-cooling over 10 min. The mixture was stirred at room temperature for 2 hr. The reaction mixture was ice-cooled, and saturated aqueous ammonium chloride solution (40 ml) and water (40 ml) were added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1) to give the title compound (3.15 g).

reactant | o-Anisaldehyde | 2.72 g | C(C=1C(=CC=CC1)OC)=O | C8H8O2
reactant | magnesium ethylbromide tetrahydrofuran | 0.93M, 31.3 ml | C(C)Br.[Mg].O1CCCC1
reactant | ammonium chloride | 40 ml | [Cl-].[NH4+]
reactant | water | 40 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(2-Methoxyphenyl)propanol | 3.15 g | COC1=C(C=CC=C1)C(CC)O | C10H14O2
